US07132426B2
Step 2: Preparation of 1-(4-Methanesulfonyl-phenyl)-2-nitro-ethanone.
To a suspension of potassium tert-butoxide (24.3 g, 217.1 mmol) in DMSO (150 mL), was added CH3NO2 (11.7 mL, 217.1 mmol) added at 0° C. After stirring for 1 h, 4-methanesulfonyl-benzoic acid phenyl ester (20.0 g, 72.4 mmol) was added in one portion at 0° C. The reaction was warmed to room temperature and stirred for 5 hr. The reaction was poured into ice-water (200 mL) and followed by adding urea (2.17 g, 36.2 mmol). The reaction was acidified with 5.0 M HCl to pH=˜5 at 0° C. The reaction was added to water (1 L) and stirred for 1 h. The pale yellow solid was filtered and dried under vacuum to afford the desired compound (13.2 g, 75.2%). 1H NMR (400 Mz, DMSO-d6) δ 8.19 (m, 4H), 6.63 (s, 2H), 3.35 (s, 3H). LCMS 244.5 [M+H].

reactant | potassium tert-butoxide | 217.1 mmol, 24.3 g | CC(C)([O-])C.[K+]
reactant | CH3NO2 | 217.1 mmol, 11.7 mL | C[N+](=O)[O-] | CH3NO2
reactant | 4-methanesulfonyl-benzoic acid phenyl ester | 72.4 mmol, 20.0 g | C1(=CC=CC=C1)OC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C14H12O4S
reactant | urea | 36.2 mmol, 2.17 g | NC(=O)N | CH4N2O
reactant | HCl | 5.0 M | Cl | ClH
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | water | 1 L | O | H2O
product | 1-(4-Methanesulfonyl-phenyl)-2-nitro-ethanone | 13.2 g, 75.2% | CS(=O)(=O)C1=CC=C(C=C1)C(C[N+](=O)[O-])=O | C9H9NO5S
